US05177075
3,4-Dihydro-5-methyl-1(2H)-isoquinolinone
A mixture of 4.7 g (32.2 mmol) of 2,3-dihydro-4-methyl-1H-inden-1-one and 53 g of trichloroacetic acid was heated to 65°. To the resulting solution was added 4.2 g (64.4 mmol) of sodium azide and the mixture was kept at 65° for 18 hours. An additional 1.0 g of sodium azide was then added and heating continued for another four hours. The mixture was diluted with 200 ml of ice water and extracted with ether. The ether extracts were washed with water, saturated sodium hydrogen carbonate, dried (MgSO4), and concentrated. The residue was chromatographed (SiO2, ether to ether/methanol 95/5). The resulting product was recrystallized from toluene to give 2.45 g (47%) of product; mp 141°-143°.

reactant | 2,3-dihydro-4-methyl-1H-inden-1-one | 32.2 mmol, 4.7 g | CC1=C2CCC(C2=CC=C1)=O | C10H10O
reactant | trichloroacetic acid | 53 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | sodium azide | 64.4 mmol, 4.2 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 1.0 g | [N-]=[N+]=[N-].[Na+]
product | 3,4-Dihydro-5-methyl-1(2H)-isoquinolinone | 2.45 g, 47% | CC1=C2CCNC(C2=CC=C1)=O | C10H11NO
